US08372807B2
A mixture of 1H-pyrazole (300 mg, 4.4 mmol), iodonaphthalene (1.1 g, 4.4 mmol), copper (I) iodide (126 mg, 0.66 mmol), Cs2CO3 (2.15 g, 6.6 mmol) in DMF (5 mL) was evacuated and filled with nitrogen twice. The reaction was then stirred at room temperature for 30 minutes and then at 120° C. for 2 days. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate, filtered through silica gel and concentrated to give 1-(naphthalen-1-yl)-1H-pyrazole as pure solid. (800 mg, 93%).

reactant | 1H-pyrazole | 4.4 mmol, 300 mg | N1N=CC=C1 | C3H4N2
reactant | iodonaphthalene | 4.4 mmol, 1.1 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | Cs2CO3 | 6.6 mmol, 2.15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.66 mmol, 126 mg | [Cu]I
product | 1-(naphthalen-1-yl)-1H-pyrazole | C1(=CC=CC2=CC=CC=C12)N1N=CC=C1 | C13H10N2
